US08604015B2
To a solution of (2-chlorophenyl)(4-chlorophenyl)methyl(R)-quinuclidin-3-ylcarbamate (95.0 mg, 0.23 mmol) in ethyl acetate (3 ml), 2-chloro-1-(thiophen-2-yl)ethanone (37.6 mg, 0.23 mmol) was added, and the mixture was stirred at room temperature overnight. The solvent was removed under vacuum, and the residue was taken up in diethyl ether and filtered. The product was purified by flash chromatography (DCM/MeOH=95/5) to obtain (3R)-3-(((2-chlorophenyl)(4-chlorophenyl)methoxy)carbonylamino)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride (45.0 mg, mixture of diastereoisomers).

reactant | (2-chlorophenyl)(4-chlorophenyl)methyl(R)-quinuclidin-3-ylcarbamate | 0.23 mmol, 95.0 mg | N12C[C@@H](C(CC1)CC2)NC(OC(C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl)=O | C21H22Cl2N2O2
reactant | 2-chloro-1-(thiophen-2-yl)ethanone | 0.23 mmol, 37.6 mg | ClCC(=O)C=1SC=CC1 | C6H5ClOS
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | (3R)-3-(((2-chlorophenyl)(4-chlorophenyl)methoxy)carbonylamino)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride | 45.0 mg | [Cl-].ClC1=C(C=CC=C1)C(OC(=O)N[C@H]1C[N+]2(CCC1CC2)CC(C=2SC=CC2)=O)C2=CC=C(C=C2)Cl | InChI=1S/C27H26Cl2N2O3S.ClH/c28-20-9-7-19(8-10-20)26(21-4-1-2-5-22(21)29)34-27(33)30-23-16-31(13-11-18(23)12-14-31)17-24(32)25-6-3-15-35-25;/h1-10,15,18,23,26H,11-14,16-17H2;1H/t18?,23-,26?,31?;/m0./s1
